US04511390
The subject compound was prepared from 3.9 g (14.8 mmol) p-methylbenzyloxycarbonyl-L-proline, 2.0 g (14.6 mmol) isobutyl chloroformate, 1.5 g (14.8 mmol) N-methylmorpholine, and 1.5 g (14.5 mmol) L-valinol, using a procedure described in Example 1. The product, N-(p-methylbenzyloxycarbonyl)-L-prolyl-L-valinol, obtained after recrystallization from ethyl acetate/ n-hexane, melted at 122°-123.5°, α25D -61.9° (C=1.00 g/100 mL in acetone).

reactant | p-methylbenzyloxycarbonyl-L-proline | 14.8 mmol, 3.9 g | CC1=CC=C(COC(=O)N2[C@H](C(=O)O)CCC2)C=C1 | C14H17NO4
reactant | isobutyl chloroformate | 14.6 mmol, 2.0 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-methylmorpholine | 14.8 mmol, 1.5 g | CN1CCOCC1 | C5H11NO
reactant | L-valinol | 14.5 mmol, 1.5 g | N[C@@H](C(C)C)CO | C5H13NO
product | N-(p-methylbenzyloxycarbonyl)-L-prolyl-L-valinol | CC1=CC=C(COC(=O)N2[C@H](C(=O)N[C@@H](C(C)C)CO)CCC2)C=C1 | C19H28N2O4
